US06566377B2
6-[4(2-Amino-ethoxy)-phenyl]-4,5-dihydro-2H-pyridazin-3-one
In a flame-dried, round-bottomed flask, ethanolamine (1.7 ml, 28.1 mmol) was dissolved in dimethylsulfoxide (9.5 ml), and potassium tert-butoxide (95%, 3.3 g, 28.1 mmol) was added to the solution. This mixture was stirred at about 65° C. for about ten minutes, and then 6-(4-fluorophenyl)-4,5-dihydro-2H-pyridazine-3-one (3.6 g, 18.7 mmol) was added. This dark-colored solution was heated to about 80° C. for about twelve hours, and was then cooled to room temperature. Water was added, and the resulting tan solid was removed by filtration. This crude solid was then purified by column chromatography (silica gel; 5% methanol/dichloromethane to 15% methanol/dichloromethane) to afford the product as a white solid (1.5 g, 34% yield). LRMS ([M+H]+)=234.2.

reactant | ethanolamine | 28.1 mmol, 1.7 ml | C(O)CN | C2H7NO
reactant | potassium tert-butoxide | 28.1 mmol, 3.3 g | CC(C)([O-])C.[K+]
reactant | 6-(4-fluorophenyl)-4,5-dihydro-2H-pyridazine-3-one | 18.7 mmol, 3.6 g | FC1=CC=C(C=C1)C=1CCC(NN1)=O | C10H9FN2O
reactant | Water | O | H2O
solvent | dimethylsulfoxide | 9.5 ml | CS(=O)C | C2H6OS
product | 6-[4(2-Amino-ethoxy)-phenyl]-4,5-dihydro-2H-pyridazin-3-one | 1.5 g, 34% yield | NCCOC1=CC=C(C=C1)C=1CCC(NN1)=O | C12H15N3O2
